US07141351B2
The procedure of Synthesis Example 1 was repeated aside from using an equimolar amount of 2-phenylimidazole instead of imidazole and an equimolar amount of glycidol instead of ethylene oxide. There was synthesized 3-(2-phenyl-1H-imidazol-1-yl)-1,2-propanediol (yield 72%).

reactant | 2-phenylimidazole | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | glycidol | C1C(O1)CO | C3H6O2
product | 3-(2-phenyl-1H-imidazol-1-yl)-1,2-propanediol | yield 72% | C1(=CC=CC=C1)C=1N(C=CN1)CC(CO)O | C12H14N2O2
